US05908852
4-(Methylsulphonyl)phenylhydrazine hydrochloride (1.4 g, 6.2 mmol) is added to a stirred solution of 1,3-bis[4-chlorophenyl]propane-1,3-dione (1.6 g, 5.4 mmol) in a mixture of ethanol (50 mL), acetone and acetonitrile. The reaction is heated to reflux and stirred. After cooling to room temperature, the reaction mixture is concentrated in vacuo. The residue is taken up in ethyl acetate and washed with water and brine and dried over MgSO4, filtered, and concentrated in vacuo to give 1-[4-(methylsulfonyl)phenyl]-3,5-bis(4-chlorophenyl)-1H-pyrazole.

reactant | 4-(Methylsulphonyl)phenylhydrazine hydrochloride | 6.2 mmol, 1.4 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
reactant | 1,3-bis[4-chlorophenyl]propane-1,3-dione | 5.4 mmol, 1.6 g | ClC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)Cl)=O | C15H10Cl2O2
reactant | acetone | CC(=O)C | C3H6O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-[4-(methylsulfonyl)phenyl]-3,5-bis(4-chlorophenyl)-1H-pyrazole | CS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C22H16Cl2N2O2S
